US04892870
To a stirred mixture of 5.3 g (47 mmol) of N-isopropylhydroxylamine hydrochloride in 100 ml of methylene chloride cooled to 5° C. was added 3.8 g (47 mmol) of 50% sodium hydroxide solution in 20 ml of water. To this mixture was added with stirring 12.4 g (47 mmol) of 2,4-dibromobutyrylchloride and twenty minutes later an additional 7.6 g (94 mmol) of 50% sodium hydroxide solution was added. After twenty hours the organic phase was separated, dried over anhydrous magnesium sulfate and concentrated to an oil. This oil was chromatographed on silica gel with 40% ethyl acetate-hexane to afford 1.1 g of oily dihydro-4-bromo-2-isopropyl-2H-1,2-oxazin-3(4H)-one.

reactant | N-isopropylhydroxylamine hydrochloride | 47 mmol, 5.3 g | Cl.C(C)(C)NO
reactant | sodium hydroxide | 47 mmol, 3.8 g | [OH-].[Na+]
reactant | 2,4-dibromobutyrylchloride | 47 mmol, 12.4 g | BrC(C(=O)Cl)CCBr | C4H5Br2ClO
reactant | sodium hydroxide | 94 mmol, 7.6 g | [OH-].[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | dihydro-4-bromo-2-isopropyl-2H-1,2-oxazin-3(4H)-one | 1.1 g | BrC1C(N(OCC1)C(C)C)=O | C7H12BrNO2
